US08022062B2
3-tert-Butoxycarbonyl-6-(4-carboxy-benzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
To a solution of 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.0 g, 2.6 mmol) in methanol (15 mL) under nitrogen, add with stirring potassium hydroxide (4.5 g, 80.3 mmol) at ambient temperature. Heat at 55-60° C. for 2 h, cool to ambient temperature, and add methyl 4-bromomethylbenzoate (1.2 g, 5.2 mmol). TLC after 20 min shows formation of product; however, after 4 h at ambient temperature both TLC and LC/MS indicate complete hydrolysis of the ester and the carbamate. Dilute with saturated aqueous NH4Cl, extract three times with EtOAc, dry over anhydrous MgSO4, and concentrate in vacuo. Dissolve the crude material in THF (10 mL), treat with di-tert-butyl-dicarbonate (2 equiv) and saturated aqueous NaHCO3 (10 mL), and stir overnight. Extract three times with EtOAc, dry over anhydrous MgSO4 and concentrate in vacuo to give the desired intermediate as an oil that was used without purification [2.32 g, 50% purity with (Boc)2O]. MS (ES+) m/z 348 (M+H−Boc)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.6 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | potassium hydroxide | 80.3 mmol, 4.5 g | [OH-].[K+]
reactant | methyl 4-bromomethylbenzoate | 5.2 mmol, 1.2 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | carbamate | C(N)([O-])=O
reactant | di-tert-butyl-dicarbonate | 2 equiv | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | NH4Cl | [NH4+].[Cl-]
product | 3-tert-Butoxycarbonyl-6-(4-carboxy-benzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC=C(C=C2)C(=O)O | C23H26ClNO4S
